US05618839
1,1-Dimethyl-5-nitro-3-(trifluoromethanesulfonyloxy)-1H-indene
To a solution of 3,3-dimethyl-6-nitro-indan-1-one (LXIX) (1.00 g, 4.65 mmol) and 2,6-di-tert-butyl-4-methylpyridine (1.19 g, 5.80 mmol) in 10 mL of methylene chloride was added triflic acid anhydride (1.57 g, 5.58 mmol) at -78° C. After being stirred at room temperature for 16 hours, the mixture was diluted with 1N HCl (20 mL) and extracted with ethyl ether (30 mL×3). The combined extracts were washed with water (20 mL), dried over magnesium sulfate, and evaporated. The residue was purified by flash chromatography (EtOAc:hexane=1:20 to 1:10) to give 1.37 g (87% yield) of the title compound as an oil; 1H-NMR (CDCl3) δ1.45 (s, 6H), 6.43 (s, 1H), 7.53 (d, J=8.3 Hz, 1H), 8.15 (d, J=2.0 Hz, 1H), 8.24 (dd, J=2.0, 8.3 Hz, 1H); MS m/e 338 (MH+).

reactant | 3,3-dimethyl-6-nitro-indan-1-one | 4.65 mmol, 1.00 g | CC1(CC(C2=CC(=CC=C12)[N+](=O)[O-])=O)C | C11H11NO3
reactant | 2,6-di-tert-butyl-4-methylpyridine | 5.80 mmol, 1.19 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | triflic acid anhydride | 5.58 mmol, 1.57 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N, 20 mL | Cl | ClH
product | 1,1-Dimethyl-5-nitro-3-(trifluoromethanesulfonyloxy)-1H-indene | 1.37 g, 87% yield | CC1(C=C(C2=CC(=CC=C12)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F)C | C12H10F3NO5S
